Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
palpitations
 
Major Surgical or Invasive Procedure:
electrical cardioversion

 
History of Present Illness:
___ year old G2P0 female at 23 weeks and 3 days with history of 
hypothyroidism presents with complaints of palpitations. She 
describes palpitations starting at about 8:30 this morning, 
describing it as a shaking sensation in her chest. She had 
initially awoke this morning at 6:00 AM, felt uneasy, and went 
back to sleep. She awoke again at 730, and had a small cup of 
___ caffeinated coffee (as she has done for 6wks). No other 
changes to her habits. She denies any chest pain, shortness of 
breath, or dizziness. On presentation to the emergency room, she 
was found to be in new Afib with RVR with heart rate in the 
130s. She received diltiazem 10mg IV x1 and 20mg IV x1 with 
heart rate slowing initially to the ___, but then heart rate 
gradually increased back up into the 120-130's. She was given 
diltiazem 30 mg POx1 following the two doses of IV dilt. Her 
blood pressure has been stable, her systolics ranging 98-117. 
She continues to feel palpitations. In the ED, she also received 
3L of fluids. She is troponin negative x1. U/a was clean. Obgyn 
and cardiology evaluated the patient in the emergency room, 
tentative plan is to cardiovert in the AM.  
.  
Her vitals on transfer are: 106/80, HR 100-120, 25, 100%RA.  
.  
Of note, the patient has a history of hypothyroidism diagnosed 
___ ago when she was having difficulty conceiving. She was 
started on Levothyroxine 50mcg and has continued on that dose. 
Her last TSH check was 2mos ago.  
.  
On review of systems, s/he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. S/he denies recent fevers, chills or 
rigors. S/he denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, syncope or presyncope.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: - Diabetes, - Dyslipidemia, - 
Hypertension  
2. CARDIAC HISTORY: none  
-CABG: none  
-PERCUTANEOUS CORONARY INTERVENTIONS: none  
-PACING/ICD: none  
3. OTHER PAST MEDICAL HISTORY:  
- hypothyroidism - ___ TSH 1.2, diagnosed ___ ago, on 
levothyroxine 50mcg daily  

 
Social History:
___
Family History:
Maternal grandmother - breast cancer  
Great aunt - breast cancer  
Father - HTN  
___ grandfather - HTN  
___ grandfather - DM, MI  
Brother - borderline DM, has an "arrhythmia" treated with beta 
blocker  

 
Physical Exam:
VS: 97.7 120/73 70 20 99%RA  
GENERAL: Pregnant woman in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple, no LAD  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Gravid. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

 
Pertinent Results:
___ 01:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 12:32PM   GLUCOSE-96 K+-4.1
___ 12:15PM   GLUCOSE-98 UREA N-9 CREAT-0.6 SODIUM-136 
POTASSIUM-4.1 CHLORIDE-107 TOTAL CO2-20* ANION GAP-13
___ 12:15PM   estGFR-Using this
___ 12:15PM   cTropnT-<0.01
___ 12:15PM   CALCIUM-9.7 PHOSPHATE-3.4 MAGNESIUM-1.8
___ 12:15PM   TSH-2.4
___ 12:15PM   T4-6.7 T3-170 FREE T4-0.71*
___ 12:15PM   WBC-10.9 RBC-4.25 HGB-12.9 HCT-37.6 MCV-89 
MCH-30.4 MCHC-34.3 RDW-14.1
___ 12:15PM   NEUTS-80.9* LYMPHS-13.6* MONOS-3.8 EOS-1.0 
BASOS-0.7
___ 12:15PM   PLT COUNT-294

___ ECHO: The left atrium is elongated. The interatrial 
septum is aneurysmal. No evidence of interatrial shunt found by 
color Doppler. Left ventricular wall thicknesses and cavity size 
are normal. Overall left ventricular systolic function is normal 
(LVEF>55%). Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic regurgitation. 
The mitral valve appears structurally normal with trivial mitral 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion.  
 
Brief Hospital Course:
___ year old G2P0 (23+3) female with history of hypothyroidism 
presenting with new Afib with RVR.  
.  
#. Afib with RVR - The patient presented with symptomatic afib 
with RVR of new onset that am. This was considerd to be possibly 
due to added physiologic stress of pregnancy, or other unknown 
cause. Thyroid studies were done and found the patient to be 
slightly hypothyroid. Patient has a CHADS score of 0, has no 
history of CHF, HTN, age>___, DM, or prior CVA. She was given 
diltiazem in the ED with good response however became 
tachycardic again. In discussion with high risk OB, it was 
determined that cardioversion is the first line intervention in 
pregnant women with a.fib. The patient was therefore admitted 
overnight and rate controlled with diltiazem. ASA was not given 
as it is a Category D risk in pregnancy. She had cardioversion 
resulting in return to normal sinus rhythm. Fetal heart tones 
were checked before and after procedure by ___ and were found to 
be appropriate. TTE was done subsequent to cardioversion and 
showed enlarged R atrium with aneurysmal septum. Echo was 
otherwise normal. Because the patient had symptomatic a. fib and 
was cardioverted so quickly, it was not felt necessary to 
anticoagulate her. She will be followed-up in cardiology clinic. 

.   
#. Pregnancy - The patient was 23 weeks and 3 days pregnant on 
admission. She was continued on prenatal vitamins, fetal heart 
tones were monitored BID and found to be normal, obgyn was aware 
of pt and followed during electrocardioversion.  
.  
#. Hypothyroidism: Patient's TSH was found to be 2.4 and free T4 
was found to be 0.71. This was thought to represent 
hypothyroidism given free T4 is the most accurate reflection of 
thyroid function during pregnancy. Synthroid was increased to 
75mcg daily. The patient was scheduled with follow-up with new 
PCP in ___. 
.  
.  
PROPHYLAXIS: Did not receive ppx as pt was ambulating.  
.  
CODE: Full code  
.  
COMM: patient  
.  

 
Medications on Admission:
levothyroxine 50 mcg daily  
prenatal vitamins-iron fumarate-FA  

 
Discharge Medications:
1. levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO once a 
day.
Disp:*30 Tablet(s)* Refills:*2*
2. Prenatal vitamins
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial Fibrillation with RVR

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
   It was a pleasure participating in your care. You were 
admitted for new onset of atrial fibrillation. You were given 
medications to decrease your heart rate and then you underwent 
electrical cardioversion which returned your heart to normal 
rhythm. You had an echocardiogram which showed elongation of 
your left atrium. This should be followed up in cardiology 
clinic. You also had your thyroid function tested and were found 
to be slightly hypothyroid. Your levothyroxine was increased to 
75mcg daily and will continue to be followed by your PCP. 
    Please call if you again develop palpitations, if you have 
increased lightheadedness, dizziness, shortness of breath, or 
any other problems that concern you. 
*************
The following medication has been CHANGED:
Levothyroxine 75mcg daily
 
Followup Instructions:
___